data/mechanisms/records/IMS4-EQ4.13.json
{"mechanism_id": "IMS4-EQ4.13", "species": [{"species_id": "diethyl_ether_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][O+:3][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethoxymethylene_cation", "mapped_smiles": "[CH2:2]=[O+:3][CH2:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["diethyl_ether_radical_cation"]}, {"state_id": "state_products", "species_ids": ["ethoxymethylene_cation", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 57, "equation": "4.13", "section": "4.6 Radical-site initiation (alpha-cleavage)"}, "confidence": 0.95, "curator_note": "Concrete example: the diethyl ether molecular ion, n-ionized at oxygen, CH3-CH2-O(+.)-C2H5 -> .CH3 + CH2=O(+)-C2H5 (spectrum in Figure 3.9). Book draws 3 arc(s); moves <1,2,3> are ALL drawn on the page -- the odd electron on O into the forming C=O bond, one electron of the CH3-CH2 sigma bond into that same bond, and the second electron of that sigma bond onto the departing methyl -- so no implicit hook is required. DELOCALISATION: the book adds the resonance partner (+)CH2-OC2H5 in parentheses; the oxocarbenium form CH2=O(+)-C2H5 is the one encoded here and the two are the same ion."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 74.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_59", "species_id": "ethoxymethylene_cation", "step_id": "step_alpha_cleavage", "observed_mz": 59.0491, "relative_intensity": 0.5, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-23T00:00:00Z", "modified_at": "2026-07-23T00:00:00Z"}}
